US03941782
C. 1-[2-Methyl-4-(morpholino)butyryloxy]-3-(3-methyl-2-octyl)-7,8,9,10-tetrahydro-6,6,10-trimethyl-6H-dibenzo[b,d]pyran
A mixture of 1.2 g. (3.24 mmole) of 1-hydroxy-3-(3-methyl-2-octyl)-7,8,9,10-tetrahydro-6,6,10-trimethyl-6H-dibenzo[b,d]pyran, 0.73 g. (3.24 mmole) of 2-methyl-4-morpholinobutyric acid hydrochloride, 0.71 g. (3.46 mmole) of dicyclohexylcarbodiimide and 50 ml. of methylene chloride was stirred at room temperature for 16 hrs. The reaction mixture was cooled and the byproduct of dicyclohexylurea was removed by filtration. The solvent was evaporated to give a foamy residue which was chromatographed using activated magnesium silicate and methanol/chloroform solvent mixtures. The fractions were monitored by thin layer chromatography and the desired material was obtained from the 2% methanol/chloroform fractions. The appropriate fractions were collected and evaporated to give 0.9 g. (51%) of light purple gum.

reactant | 1-hydroxy-3-(3-methyl-2-octyl)-7,8,9,10-tetrahydro-6,6,10-trimethyl-6H-dibenzo[b,d]pyran | 3.24 mmole | OC1=CC(=CC=2OC(C3=C(C21)C(CCC3)C)(C)C)C(C)C(CCCCC)C | C25H38O2
reactant | 2-methyl-4-morpholinobutyric acid hydrochloride | 3.24 mmole | Cl.CC(C(=O)O)CCN1CCOCC1
reactant | dicyclohexylcarbodiimide | 3.46 mmole | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-[2-Methyl-4-(morpholino)butyryloxy]-3-(3-methyl-2-octyl)-7,8,9,10-tetrahydro-6,6,10-trimethyl-6H-dibenzo[b,d]pyran | CC(C(=O)OC1=CC(=CC=2OC(C3=C(C21)C(CCC3)C)(C)C)C(C)C(CCCCC)C)CCN3CCOCC3 | C34H53NO4
